US07846933B2
A mixture comprising 16.4 g of 4-chloro-2-methylsulfanylpyrimidine, 38 g of tributyl(1-ethoxyvinyl) tin, 1.43 g of bis(triphenylphosphine)palladium (II) dichloride and 100 ml of DMF was stirred at 80° C. for 3 hours. After cooling the reaction mixture, 300 ml of ethyl acetate and 17.8 g of potassium fluoride were added to the mixture, and the resulting mixture was stirred at room temperature overnight. After filtration with Celite, the filtrate was washed, dried and concentrated. The residue was purified by silica gel column chromatography (hexane:ethylacetate=20:1) to give 18.9 g of 4-(1-ethoxy-vinyl)-2-methylsulfanylpyrimidine.

reactant | 4-chloro-2-methylsulfanylpyrimidine | 16.4 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | tributyl(1-ethoxyvinyl) tin | 38 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | potassium fluoride | 17.8 g | [F-].[K+]
catalyst | bis(triphenylphosphine)palladium | 1.43 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-ethoxy-vinyl)-2-methylsulfanylpyrimidine | 18.9 g | C(C)OC(=C)C1=NC(=NC=C1)SC | C9H12N2OS
